US09302991B2
<Step-3>:1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethanone
To a stirred solution of N-methoxy-N-methyl-6-(2,2,2-trifluoroethoxy)nicotinamide (6.54 g, 24.8 mmol, Step-2) in tetrahydrofuran (80 mL) is added dropwise 1.06M methylmagnesium bromide (46.7 mL, 49.5 mmol) at 0° C. The reaction mixture is stirred at room temperature for 1.5 hours. The reaction mixture is poured into saturated aqueous sodium hydrogen carbonate (100 mL) and extracted with ethyl acetate (300 mL). The organic layer is washed with water (100 mL×2) and dried over sodium sulfate and concentrated in vacuo. The residue is purified by column chromatography on silica gel eluting with n-hexane/ethyl acetate (1:1) to give 4.51 g (83% yield) of the title compound as colorless oil.

reactant | N-methoxy-N-methyl-6-(2,2,2-trifluoroethoxy)nicotinamide | 24.8 mmol, 6.54 g | CON(C(C1=CN=C(C=C1)OCC(F)(F)F)=O)C | C10H11F3N2O3
reactant | methylmagnesium bromide | 49.5 mmol, 1.06M, 46.7 mL | C[Mg]Br
reactant | sodium hydrogen carbonate | 100 mL | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
product | 1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethanone | 4.51 g, 83% yield | FC(COC1=CC=C(C=N1)C(C)=O)(F)F | C9H8F3NO2
